US08314091B2
B: 3-((4-(4-Amino-3-fluorobenzoyl)-2,2-dimethylpiperazin-1-yl)methyl)-N-tert-butylbenzamide
To (4-amino-3-fluorophenyl)(3,3-dimethylpiperazin-1-yl)methanone (0.521 mmol, 131 mg) in acetonitrile (5.213 mL) was added N-tert-butyl-3-(chloromethyl)benzamide (0.573 mmol, 129 mg), and triethylamine (1.040 mmol, 145 μl, 105 mg). A catalytic amount of sodium iodide was added. The mixture was heated to reflux for 3 hours. The mixture was allowed to cool and ethyl acetate was added. The organic mixture was washed with water, dried with sodium sulfate, filtered and concentrated under vacuum. The residue was purified by silica chromatography (eluting with 5% methanol in dichloromethane) to yield the title compound (90 mg). MS (ESI) m/z 441.4 [M+H]+

reactant | (4-amino-3-fluorophenyl)(3,3-dimethylpiperazin-1-yl)methanone | 0.521 mmol, 131 mg | NC1=C(C=C(C=C1)C(=O)N1CC(NCC1)(C)C)F | C13H18FN3O
reactant | N-tert-butyl-3-(chloromethyl)benzamide | 0.573 mmol, 129 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CCl)=O | C12H16ClNO
reactant | triethylamine | 1.040 mmol, 145 μl, 105 mg | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | [I-].[Na+]
solvent | acetonitrile | 5.213 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-((4-(4-Amino-3-fluorobenzoyl)-2,2-dimethylpiperazin-1-yl)methyl)-N-tert-butylbenzamide | 90 mg | NC1=C(C=C(C(=O)N2CC(N(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)(C)C)C=C1)F | C25H33FN4O2
